US04839350
Benzhydryl 7-(phenoxyacetamido)-3-(triphenylphosphoran-diylmethyl)-3-cephem-4-carboxylate (1.55 g ) and 4-methylthiazol-5-carboaldehyde (0.305 g) were dissolved in methylene chloride (20 ml), to which aqueous saturated sodium bicarbonate (20 ml) was added at ambient temperature. The resultant mixture was stirred for 17 hours at ambient temperature. The mixture was allowed to stand until it separated into the aqueous phase and organic solvent phase. The aqueous phase was removed and washed with methylene chloride (20 ml), and the washings (in methylene chloride) were combined with the organic solvent phase separated. The combined solution was dried over anhydrous magnesium sulfate and then concentrated to dryness under reduced pressure. The solid residue obtained was purified chromatographically on a column of silica gel (Wako gel C-300) (40 g) as developed with benzene-ethyl acetate (5:1) as the development solvent. The entitled compound, 7-(phenoxyacetamido)-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid benzhydryl ester (0.741 g) was obtained.

reactant | Benzhydryl 7-(phenoxyacetamido)-3-(triphenylphosphoran-diylmethyl)-3-cephem-4-carboxylate | 1.55 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C47H39N2O5PS
reactant | 4-methylthiazol-5-carboaldehyde | 0.305 g | CC=1N=CSC1C=O | C5H5NOS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
product | 7-(phenoxyacetamido)-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid benzhydryl ester | 0.741 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(COC2=CC=CC=C2)=O)=O)C=CC2=C(N=CS2)C | C34H29N3O5S2
